US07713994B2
4-Furan-3-yl-3-methoxymethoxy-benzonitrile
4-Iodo-3-methoxymethoxy-benzonitrile (150 mg, 0.52 mmol) and 3-furanboronic acid (96 mg, 0.86 mmol) and Pd(PPh3)4 (60 mg, 0.052 mmol) and Cs2CO3 (500 mg, 1.53 mmol) is mixed in N,N-dimethylformamide (10 mL) and degassed and then heated at 100° C. for 4 hours. After which, the mixture is allowed to cool to room temperature and an aqueous work up is performed and the residue purified to afford the desired product (100 mg, 84%).

reactant | 4-Iodo-3-methoxymethoxy-benzonitrile | 0.52 mmol, 150 mg | IC1=C(C=C(C#N)C=C1)OCOC | C9H8INO2
reactant | 3-furanboronic acid | 0.86 mmol, 96 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | Cs2CO3 | 1.53 mmol, 500 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.052 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Furan-3-yl-3-methoxymethoxy-benzonitrile | 100 mg, 84% | O1C=C(C=C1)C1=C(C=C(C#N)C=C1)OCOC | C13H11NO3
